US05965679
(b) Preparation of 4--bromodeoxybenzoin
Benzene (200 mL) and aluminum chloride (74 g, 0.558 mol) are mixed into a flask and the mixture of 4-bromophenylacetyl chloride and benzene in Step (a) is added dropwise allowing the reaction to evolve HCl. The reaction mixture is stirred at room temperature for 1 to 1.5 hours and poured into ice water. Ethyl acetate (1 L) is added to dissolve the precipitated solids. The layers are separated and the organic layer is washed successively with 1 M aqueous HCl, saturated aqueous NaHCO3, brine and then dried over Na2SO2. The solvent is then evaporated to give a solid material which is recrystallized from ethylacetate/hexanes to give the title compound in 84% yield as a yellow solid.

reactant | Benzene | 200 mL | C1=CC=CC=C1 | C6H6
reactant | aluminum chloride | 0.558 mol, 74 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-bromophenylacetyl chloride | BrC1=CC=C(C=C1)CC(=O)Cl | C8H6BrClO
reactant | HCl | Cl | ClH
reactant | Ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | 4--bromodeoxybenzoin | 84% yield | BrC1=CC=C(C=C1)C(=O)CC1=CC=CC=C1 | C14H11BrO
